US03931199
12.5 g of potassium permanganate is added in small portions to a solution of 9 g of 7-acetyl-5H-[1]benzopyrano[2,3-b]pyridine in 180 ml of acetone at 10°-15°C. The mixture is stirred at room temperature for 1 hour. The reaction mixture is filtered, and the crystalline residue is washed thoroughly with chloroform. The filtrate and washings are concentrated, and the residue is recrystallized from toluene to give 7-acetyl-5-oxo-5H-[1]benzopyrano[2,3-b]pyridine melting at 195°-197°C.

reactant | potassium permanganate | 12.5 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | 7-acetyl-5H-[1]benzopyrano[2,3-b]pyridine | 9 g | C(C)(=O)C=1C=CC2=C(CC=3C(=NC=CC3)O2)C1 | C14H11NO2
solvent | acetone | 180 ml | CC(=O)C | C3H6O
product | 7-acetyl-5-oxo-5H-[1]benzopyrano[2,3-b]pyridine | C(C)(=O)C=1C=CC2=C(C(C=3C(=NC=CC3)O2)=O)C1 | C14H9NO3
